US05274100
75 g of phosgene are introduced at a temperature of 85°-95° C. over 1 hour into a mixture of 87.5 g of 5-chloro-2-hydroxy-3-nitropyridine in 500 ml of toluene and 3 ml of N,N-dimethylformamide. The reaction mixture is kept for 2 hours under reflux at 85°-95° C. and then allowed to cool to room temperature over a period of 18 hours. The reaction mixture is washed 3 times with water and the organic phase is dried over sodium sulfate and thereafter concentrated by evaporation. The crude product, obtained in the form of a brown oil, is crystallised from 200 ml of n-hexane, giving 67.5 g of 2,5-dichloro-3-nitropyridine (70% of theory) with a melting point of 38°-39° C.

reactant | phosgene | 75 g | C(=O)(Cl)Cl | CCl2O
reactant | 5-chloro-2-hydroxy-3-nitropyridine | 87.5 g | ClC=1C=C(C(=NC1)O)[N+](=O)[O-] | C5H3ClN2O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2,5-dichloro-3-nitropyridine | 67.5 g, 70% | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
